### PR TITLE
[Merged by Bors] - feat(MeasureTheory): prove regular measures have conull support

### PR DESCRIPTION
**Pull request by CoolRmal**
This PR proves in `MeasureTheory.Measure.Support` that any measure which is compact-inner-regular on open sets has conull support. It also records the consequences for `[μ.InnerRegular]` on spaces with `[OpensMeasurableSpace X]` and for `[μ.Regular]`.

It first proves compact subsets of `μ.supportᶜ` have measure zero, then applies `InnerRegularWRT IsCompact IsOpen`. The inner-regular and regular statements are corollaries.

Created with the help of codex.

### CODE REVIEW

File: Mathlib/MeasureTheory/Measure/Support.lean [hunk 1]
```diff
@@ -133,6 +136,39 @@ lemma support_eq_sInter : μ.support = ⋂₀ {t : Set X | IsClosed t ∧ μ t
...
+  refine hK.induction_on measure_empty ?_ ?_ ?_
+  · exact fun _ _ hst ht ↦ measure_mono_null hst ht
+  · exact fun _ _ hs ht ↦ measure_union_null hs ht
+  · intro x hxK
+    obtain ⟨U, hUnhds, hU0⟩ := notMem_support_iff_exists.1 (hKsub hxK)
+    exact ⟨U, mem_nhdsWithin_of_mem_nhds hUnhds, hU0⟩
+
+/-- A measure which is compact-inner-regular on open sets has conull support. -/
+lemma measure_compl_support_of_innerRegularWRT_isCompact_isOpen
+    (hμ : μ.InnerRegularWRT IsCompact IsOpen) : μ μ.supportᶜ = 0 := by
```
Comment (j-loreaux) [inline Mathlib/MeasureTheory/Measure/Support.lean]: Don't you think the preferred statement here should be `μ.support ∈ μ.ae`?

File: Mathlib/MeasureTheory/Measure/Support.lean [hunk 2]
```diff
@@ -133,6 +136,39 @@ lemma support_eq_sInter : μ.support = ⋂₀ {t : Set X | IsClosed t ∧ μ t
...
+  by_contra hne
+  obtain ⟨K, hKsub, hKcompact, hKpos⟩ := hμ isOpen_compl_support 0 (pos_iff_ne_zero.2 hne)
+  simp [measure_eq_zero_of_isCompact_subset_compl_support hKcompact hKsub] at hKpos
+
+/-- An inner regular measure has conull support when open sets are measurable. -/
+@[simp]
+lemma measure_compl_support_of_innerRegular [OpensMeasurableSpace X] [μ.InnerRegular] :
+    μ μ.supportᶜ = 0 :=
```
Comment (j-loreaux) [inline Mathlib/MeasureTheory/Measure/Support.lean]: idem

File: Mathlib/MeasureTheory/Measure/Support.lean [hunk 3]
```diff
@@ -133,6 +136,39 @@ lemma support_eq_sInter : μ.support = ⋂₀ {t : Set X | IsClosed t ∧ μ t
...
+  measure_compl_support_of_innerRegularWRT_isCompact_isOpen fun _ hU r hr =>
+    InnerRegular.innerRegular hU.measurableSet r hr
+
+/-- A regular measure has conull support. -/
+@[simp]
+lemma measure_compl_support_of_regular [μ.Regular] : μ μ.supportᶜ = 0 :=
```
Comment (j-loreaux) [inline Mathlib/MeasureTheory/Measure/Support.lean:182]: idem

**Review by j-loreaux — COMMENTED** [review]
If you disagree, ping me again, otherwise you can change them and merge.

bors d+

File: Mathlib/MeasureTheory/Measure/Support.lean (hunk 1 above)
Comment (CoolRmal) [reply Mathlib/MeasureTheory/Measure/Support.lean]: I am actually also a bit unsure about this, right now we have both [MeasureTheory.Measure.support_mem_ae](https://leanprover-community.github.io/mathlib4_docs/Mathlib/MeasureTheory/Measure/Support.html#MeasureTheory.Measure.support_mem_ae) and [MeasureTheory.Measure.measure_compl_support](https://leanprover-community.github.io/mathlib4_docs/Mathlib/MeasureTheory/Measure/Support.html#MeasureTheory.Measure.measure_compl_support) in the case that `X` is a `HereditarilyLindelofSpace`. Should I keep only one version or maybe include both versions?

Comment (j-loreaux) [reply Mathlib/MeasureTheory/Measure/Support.lean]: If you want to deprecate the `measure_compl_support` version, that's fine, but if instead want to add both versions, that's fine. I don't have a strong preference here.
